US05019647
Step 2. (S)-1-Ethoxy-2-amino-4-methylpentane
(S)-leucinol (6.4 mL, 5 mmol) was added over 30 minutes to a well stirred slurry of 6% sodium hydride (2.2 g, 55 mmol) in THF (50 mL) at room temperature under N2. After all of the sodium hydride had reacted, a solution of ethyl iodide (4 mL, 50 mmol) in THF (50 mL) was added and the reaction stirred at 20°-25° C. for 20 hours. THF was removed under reduced pressure and the residue partitioned between diethyl ether and brine. The ether extract was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was flash chromatographed over silica gel and pure aminoether eluted with a mixture of 10% isopropanol and 90% chloroform.

reactant | (S)-leucinol | 5 mmol, 6.4 mL | N[C@@H](CC(C)C)CO | C6H15NO
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | ethyl iodide | 50 mmol, 4 mL | C(C)I | C2H5I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-Ethoxy-2-amino-4-methylpentane | C(C)OC[C@H](CC(C)C)N | C8H19NO
